US06969766B2
1-(Benzothiazole-2-sulfonyl)-4-{[6-N-(2-methylthioethoxycarbonyl)-adenine-9-yl]acetyl}-piperazin-2-one
The title compound was synthesized by the reaction of 1-(benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt with [6-N-(2-methylthioethoxycarbonyl)-adenine-9-yl]-acetic acid as per the procedure of Example 52. 1H NMR (500 MHz; DMSO-d6) δ 10.80 (brs, 1H), 8.61 (d, 1H), 8.42 (s, 0.6H), 8.39 (s, 0.4H), 8.35 (m, 1H), 8.27 (m, 1H), 7.73 (m, 2H), 5.42 (s, 1.2H), 5.30 (s, 0.8H), 4.57 (s, 0.8H), 4.34-4.25 (m, 4.4H), 4.09 (m, 2.0H), 3.88 (t, 0.8H), 2.79 (t, 2H), 2.13 (s, 3H).

reactant | 1-(benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt | FC(C(=O)O)(F)F.S1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CNCC2)=O
reactant | [6-N-(2-methylthioethoxycarbonyl)-adenine-9-yl]-acetic acid | CSCCOC(=O)NC1=C2N=CN(C2=NC=N1)CC(=O)O | C11H13N5O4S
product | 1-(Benzothiazole-2-sulfonyl)-4-{[6-N-(2-methylthioethoxycarbonyl)-adenine-9-yl]acetyl}-piperazin-2-one | S1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CN(CC2)C(CN2C1=NC=NC(=C1N=C2)NC(=O)OCCSC)=O)=O | C22H22N8O6S3
